US07544812B2
2-{4-[3-(1-Biphenyl-4-ylmethyl-3-methyl-2-oxo-imidazolidin-4-yl)-propyl]-2-methyl-phenoxy}-2-methyl-propionic acid
The titled compound was prepared using 2-Methyl-2-{2-methyl-4-[3-(3-methyl-2-oxo-imidazolidin-4-yl)-propyl]-phenoxy}-propionic acid methyl Ester (0.112 g, 0.322 mmole) and 4-phenyl benzyl chloride (0.078 g, 0.186 mmole) to produce an oil (0.054 g, 34%). Mass [EI+] 501 (M+H)+, [EI−] 499 (M−H)−.

reactant | 2-Methyl-2-{2-methyl-4-[3-(3-methyl-2-oxo-imidazolidin-4-yl)-propyl]-phenoxy}-propionic acid methyl Ester | 0.322 mmole, 0.112 g | COC(C(C)(OC1=C(C=C(C=C1)CCCC1N(C(NC1)=O)C)C)C)=O | C19H28N2O4
reactant | 4-phenyl benzyl chloride | 0.186 mmole, 0.078 g | C1(=CC=CC=C1)C1=CC=C(CCl)C=C1 | C13H11Cl
product | 2-{4-[3-(1-Biphenyl-4-ylmethyl-3-methyl-2-oxo-imidazolidin-4-yl)-propyl]-2-methyl-phenoxy}-2-methyl-propionic acid | C1(=CC=C(C=C1)CN1C(N(C(C1)CCCC1=CC(=C(OC(C(=O)O)(C)C)C=C1)C)C)=O)C1=CC=CC=C1 | C31H36N2O4
